US07238808B2
5-[7-Cyclopropyl-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 7-cyclopropyl-5-(3,4-dichloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (Example C.8) (82 mg, 0.25 mmol) and 5-bromo-thiophene-2-sulfonic acid amide (61 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (35 mg, 28%). MS (ISP) 489.3 [(M+H)+]; mp 213–214° C.

reactant | 7-cyclopropyl-5-(3,4-dichloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC(=C(C=C2)Cl)Cl | C17H11Cl2N3
reactant | 5-bromo-thiophene-2-sulfonic acid amide | 0.25 mmol, 61 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[7-Cyclopropyl-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | C1(CC1)C1=CC(=NC=2N1N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C2=CC(=C(C=C2)Cl)Cl | C21H14Cl2N4O2S2
